Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
vomitting/abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old female who complains of ABD
PAIN. She presents with a history of ischemic colitis,
aortic bypass, CAD who presents with sudden onset of
vomiting, NBNB emesis associated with bialteral rib pain
which started after vomiting. She has had no black or bloody
stools.
 
PAST FAMILY AND SOCIAL HISTORY
 
Nursing triage/initial assessment reviewed and confirmed
 
Past Medical History: ischemic colon, CAD
                  Medications: see list
      Allergies and Reactions: Percocet
 

 
Past Medical History:
PMH: MI early 1990s, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___, hysterectomy

 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
PHYSICAL EXAMINATION: upon admission: ___ 
 
Temp: 97.2 HR: 65 BP: 162/61 Resp: 20 O(2)Sat: 100 Normal
 
Constitutional: Comfortable, chronically ill appearing
HEENT: Normocephalic, atraumatic
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, mild upper abd ttp
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent

Physical examination upon discharge:  ___:

vital signs:  t=98.3, hr=60, bp=106/80,rr=18, oxygen saturation 
98% room air

General:  NAD
CV:  ns1, s2, -s3, -s4
LUNGS:  clear
ABDOMEN:  soft, non-tender
EXT:  no pedal edema bil., no calf tenderness bil
NEURO:  alert and oriented x 3, speech clear, no tremors
 

 
Pertinent Results:
___ 05:48AM BLOOD WBC-4.6 RBC-3.13* Hgb-9.6* Hct-30.4* 
MCV-97 MCH-30.8 MCHC-31.7 RDW-14.6 Plt ___
___ 06:14AM BLOOD WBC-5.4 RBC-3.10* Hgb-9.7* Hct-29.8* 
MCV-96 MCH-31.1 MCHC-32.4 RDW-14.9 Plt ___
___ 10:35PM BLOOD Neuts-77.7* Lymphs-14.1* Monos-6.6 
Eos-0.9 Baso-0.6
___ 05:48AM BLOOD Plt ___
___ 10:35PM BLOOD ___ PTT-28.1 ___
___ 05:48AM BLOOD Glucose-98 UreaN-2* Creat-0.5 Na-143 
K-3.9 Cl-110* HCO3-25 AnGap-12
___ 06:14AM BLOOD Glucose-122* UreaN-4* Creat-0.5 Na-140 
K-3.4 Cl-110* HCO3-23 AnGap-10
___ 05:48AM BLOOD ALT-139* AST-39 AlkPhos-209* TotBili-0.4
___ 05:48AM BLOOD Lipase-23
___ 09:10AM BLOOD Lipase-21
___ 10:35PM BLOOD Lipase-69*
___ 05:48AM BLOOD Calcium-7.7* Phos-4.1# Mg-1.7

___:  chest x-ray:

No acute cardiopulmonary process

___:  liver/gallbladder US:

Thickened, edematous, hyperemic gallbladder wall associated with 

cholelithiasis is compatible with acute cholecystitis.  Given 
the absence of right upper quadrant pain, a HIDA scan or CT may 
be useful.

___:  CTA abdomen and pelvis:

.  Gallbladder wall edema, hyperemia, and cholelithiasis are 
highly 
concerning for cholecystitis.  Despite the clinical absence of 
right upper quadrant pain, there is no other obvious explanation 
for the CT findings.  If uncertainty remains, a HIDA scan may be 
useful for confirmation. 
  
2.  Note that the preliminary report described concern for 
cholangitis based on CBD wall enhancment.  However, the duct is 
not dilated.  Nor is there any pancreatic duct dilation to 
indicate obstruction at the level of the ampula.   
  
2.  Stable occlusion of the celiac origin and SMA and ___ 
stents.  Bifurcated super celiac aortic graft bypasses the SMA 
and occluded celiac.  There is a stable high-grade stenosis at 
the anastomosis of the graft with common hepatic artery but the 
common hepatic arterial tree is well perfused. 

___:  MRI of the abdomen:

1. Cholelithiasis with pericholecystic fluid surrounding the 
gallbladder and mild hyperemia within the adjacent hepatic 
parenchyma.  While the gallbladder is not significantly 
distended the appearances are suspicious for cholecystitis; a 
HIDA scan can be obtained for further assessment.   
  
2. Supraceliac graft, assessment of the upper abdominal arterial 
anatomy is limited by motion and metallic artifact and better 
visualized on the recent CT.   
  
3. Adrenal adenomata within the left adrenal gland, unchanged in 
size from the CT of ___. 
  
4. No evidence of choledocholithiasis or biliary dilatation. 

___:  gallbladder scan:

Normal hepatobiliary scan. 
  

  

   
  

 
Brief Hospital Course:
The patient was admitted to the hospital with vomitting and 
abdominal pain.  Upon admission, she was made NPO, given 
intravenous fluids, placed on unasyn and underwent imaging. She 
was noted on blood work to have mild elevations of the liver 
function tests.  Because of her presenting symptoms, she 
underwent an ultra-sound of the gallbladder and liver which 
showed numerous small stones in the neck of the gallbladder with 
a thickened gallbladder wall. Despite these findings, she was 
not tender on  examination.  The patient was placed on bowel 
rest and underwent serial abdominal examinations. The white 
blood cell count and liver function tests were closely 
monitored.  On HD #2, the patient underwent a cat scan of the 
abdomen which showed a distended hyperemic gallbladder with wall 
edema and pericholecystic fluid. Small gallstones were seen 
layering in the fundus. These findings were concerning for  
cholangitis and cholecystitis. For further investigation of the 
biliary tree, an MRI was obtained to investigate for biliary 
stones. Stones and sludge were seen in the gallbladder.  A 
gallbladder scan was done which was normal. With normal findings 
on imaging, the patient resumed a regular diet. On HD #5, she 
was discharged home in stable condition.  Her white blood cell 
count and liver enzymes were normalizing.  An appointment for 
follow-up was made with the acute care service and with her 
primary care provider.           
 
Medications on Admission:
Ampicillin-Sulbactam 3 g IV Q6H  
Acetaminophen 325-650 mg PO/NG Q6H:PRN pain  
Aspirin 81 mg PO/NG DAILY  
Heparin 5000 UNIT SC TID  
Nicotine Patch 21 mg TD DAILY  
Simvastatin 20 mg PO/NG DAILY  

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Nicotine Patch 21 mg TD DAILY 
4. Simvastatin 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cholilthiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with vomitting and abdominal 
pain.  You underwent an ultrasound of the gallbladder and you 
were found to have gallbladder inflammation.  Because of these 
findings, you underwent a gallbladder scan which showed normal 
gallbladder function.  Your abdominal pain has subsided and you 
are now preparing for discharge home with the following 
instructions:

 Please call your doctor or return to the emergency room if you 
have any of the following:

*  Recurrence of your abdominal pain
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

   
 
Followup Instructions:
___